US08609582B2
<Fluorene Type Leuco Dye>
3,6,6-Tris(dimethylamino) spiro[fluorene-9,3′-phthalide] and 3,6,6′-tris(diethylamino) spiro [fluorene-9,3′-phthalide].

reactant | 3,6,6-Tris(dimethylamino) spiro[fluorene-9,3′-phthalide] | CN(C=1C=CC2=C(C1)C=1CC(C=CC1C21OC(=O)C2=CC=CC=C12)(N(C)C)N(C)C)C | C26H29N3O2
reactant | 3,6,6′-tris(diethylamino) spiro [fluorene-9,3′-phthalide] | C(C)N(C=1C=CC2=C(C1)C1=CC(=CC=C1C21OC(=O)C2=CC(=CC=C12)N(CC)CC)N(CC)CC)CC | C32H39N3O2
product | Fluorene | C1=CC=CC=2C3=CC=CC=C3CC12 | C13H10
